US07842685B2
To a solution of diisopropylamine (1.39 mL, 10.1 mmol) in 20 mL THF at 0° C. was added butyllithium (4.02 mL, 10.0 mmol). After 10 min, tributylstannane (2.45 mL, 9.23 mmol) was added. After 10 min, the reaction mixture was cooled to −78° C. and a solution of 1-(4-fluorophenyl)ethanone (1.09 mL, 9.05 mmol) in 10 mL THF was added slowly by syringe in portions over 10 min. After 10 min, triethylamine (9.43 mL, 67.9 mmol) and methanesulfonyl chloride (2.80 mL, 36.2 mmol) was added and the bath allowed to expire overnight. The reaction mixture was treated with 50 mL hexanes and filtered, rinsing with hexanes. The filtrate was extracted with ACN, and the hexanes layer was dried over sodium sulfate, filtered, and concentrated. Purification with C-18 silica gel, eluting with DCM/ACN, gave tributyl(1-(4-fluorophenyl)vinyl)stannane as an oil.

reactant | diisopropylamine | 10.1 mmol, 1.39 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 10.0 mmol, 4.02 mL | C(CCC)[Li]
reactant | tributylstannane | 9.23 mmol, 2.45 mL | C(CCC)[SnH](CCCC)CCCC
reactant | 1-(4-fluorophenyl)ethanone | 9.05 mmol, 1.09 mL | FC1=CC=C(C=C1)C(C)=O | C8H7FO
reactant | triethylamine | 67.9 mmol, 9.43 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 36.2 mmol, 2.80 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tributyl(1-(4-fluorophenyl)vinyl)stannane | C(CCC)[Sn](C(=C)C1=CC=C(C=C1)F)(CCCC)CCCC | InChI=1S/C8H6F.3C4H9.Sn/c1-2-7-3-5-8(9)6-4-7;3*1-3-4-2;/h3-6H,1H2;3*1,3-4H2,2H3;
